US04935420
6,7-Difluoro-1-cyclopropyl-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (1.8 g) is suspended in N-methylpyrrolidone (5 ml) and thereto is added morpholine (1.82 g), and the mixture is stirred at 150° C. for 3 hours. After the reaction, the reaction mixture is concentrated, and the resulting residue is recrystallized from ethanol to give 7-morpholino-1-cyclopropyl-6-fluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (0.05 g), as pale yellow flakes, m.p. 227.5°-228° C.

reactant | 6,7-Difluoro-1-cyclopropyl-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 1.8 g | FC=1C=C2C(C(=CN(C2=C(C1F)C)C1CC1)C(=O)O)=O | C14H11F2NO3
reactant | morpholine | 1.82 g | N1CCOCC1 | C4H9NO
solvent | N-methylpyrrolidone | 5 ml | CN1C(CCC1)=O | C5H9NO
product | 7-morpholino-1-cyclopropyl-6-fluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.05 g | O1CCN(CC1)C1=C(C=C2C(C(=CN(C2=C1C)C1CC1)C(=O)O)=O)F | C18H19FN2O4
